US04492698
14.3 g (0.05 mole) of 1-cyclohexanecarbonyl-4-benzylpiperazine dissolved in 250 ml of ethanol and acidified with conc. HCl was treated with hydrogen over a palladium catalyst at 1500 psi and 100° C. The catalyst was removed by filtration and the solvent removed under reduced pressure. The residue was dissolved in isopropanol. On short standing a white crystalline precipitate appeared which was collected by filtration to give 10.0 g of 1-cyclohexanecarbonylpiperazine hydrochloride.

reactant | 1-cyclohexanecarbonyl-4-benzylpiperazine | 0.05 mole, 14.3 g | C1(CCCCC1)C(=O)N1CCN(CC1)CC1=CC=CC=C1 | C18H26N2O
reactant | HCl | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | 1-cyclohexanecarbonylpiperazine hydrochloride | 10.0 g | Cl.C1(CCCCC1)C(=O)N1CCNCC1 | InChI=1S/C11H20N2O.ClH/c14-11(10-4-2-1-3-5-10)13-8-6-12-7-9-13;/h10,12H,1-9H2;1H
